US07271197B2
ii) 2-(4-{[tert-Butyl(dimethyl)silyl]oxy}phenyl)ethyl methanesulfonate
A solution of 2-(4-((tert-butyl(dimethyl)silyl]oxy}phenyl)ethanol (653 mg) and diisopropylethylamine (1.8 ml) in DCM (15 ml) at 0° under nitrogen was treated with methanesulfonyl chloride (0.44 ml) and the mixture was stirred at 0° C. for 6 h. Saturated NaHCO3 solution was added and the mixture stirred for 15 min. Water (20 ml) was added and the mixture was extracted with DCM. The extract was dried (Na2SO4) and the solvent evaporated in vacuo to give the title compound (904 mg). LCMS RT=3.85 min.

reactant | 2-(4-((tert-butyl(dimethyl)silyl]oxy}phenyl)ethanol | 653 mg | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)CCO | C14H24O2Si
reactant | diisopropylethylamine | 1.8 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 0.44 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
solvent | Water | 20 ml | O | H2O
product | 2-(4-{[tert-Butyl(dimethyl)silyl]oxy}phenyl)ethyl methanesulfonate | 904 mg | CS(=O)(=O)OCCC1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C | C15H26O4SSi
